US05194629
10 g of maleinimide (0.1 mol) and 24 g di-tertiary butyl-dicarbonate (0.11 mol) are placed in 100 ml chloroform under argon as a protective gas. 78.5 mg 4-dimethylaminopyridine (0.001 mol) are added to this solution; the mixture is then stirred for 4 hours at room temperature. It is then extracted by shaking two times with water and sodium hydrogencarbonate solution, in each case, and again with water; the combined organic phases are then dried over magnesium sulfate. The solvent is subsequently removed, and the residue is suspended in hot petroleum ether (60° to 80° C). The crystallizate that separates out when the suspension is cooled (in an ice bath) is sucked off and dried. The resulting mixture is sublimated (75°/3×0.02 torr), whereby colorless N-Boc-maleinimide is obtained; yield: 16.8 g (82.8% of the theory); Mr=197.2 g/mol; melting point: 62.5° C.

reactant | maleinimide | 0.1 mol, 10 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | di-tertiary butyl-dicarbonate | 0.11 mol, 24 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 0.001 mol, 78.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-Boc-maleinimide | C(=O)(OC(C)(C)C)N1C(C=CC1=O)=O | C9H11NO4
